US05424414
Methyl 3-phenyl-1-adamantaneacetate, example 1, (78.8 g) was dissolved in acetonitrile (800 mL) and cooled in an ice bath while stirring under a nitrogen atmosphere. Nitronium tetrafluoroborate (40.8 g) in acetonitrile (800 mL) was added dropwise over 45 minutes. The reaction was stirred for 45 minutes after the addition, then poured into ice (985 g). The resulting solid was collected by filtration and dried in vacuo to give methyl 3-(4-nitrophenyl)-1-adamantaneacetate (55.9 g). Mass spectrum: (M+NH4)+@347. Extraction of the aqueous phase with t-butyl methyl ether (2×800 mL) yielded additional material including the lesser products, methyl 3-(2-nitrophenyl)-1-adamantaneacetate; Mass spectrum: (M+NH4)+@347 and methyl 3-(2,4-dinitrophenyl)-1-adamantaneacetate; Mass spectrum: (M+NH4)+@392.

reactant | Methyl 3-phenyl-1-adamantaneacetate | C1(=CC=CC=C1)C12CC3(CC(CC(C1)C3)C2)CC(=O)OC | C19H24O2
reactant | Nitronium tetrafluoroborate | 40.8 g | F[B-](F)(F)F.O=[N+]=O
solvent | acetonitrile | 800 mL | C(C)#N | C2H3N
solvent | acetonitrile | 800 mL | C(C)#N | C2H3N
product | methyl 3-(4-nitrophenyl)-1-adamantaneacetate | 55.9 g | [N+](=O)([O-])C1=CC=C(C=C1)C12CC3(CC(CC(C1)C3)C2)CC(=O)OC | C19H23NO4
